US08614213B2
Step 1: Cis-2-chloro-N-(−4-(hydroxymethyl)cyclohexyl)-5-(trifluoromethyl)-benzamide
To a solution of cis-(4-Amino-cyclohexyl)-methanol (Tetrahedron Lett., 1970, 11, 4285-4288) (0.75 g, 5.80 mmol) in THF (10 ml) is added water (1.8 mL), triethylamine (2.023 mL, 14.51 mmol) and 2-chloro-5-(trifluoromethyl)benzoyl chloride (1.411 g, 5.80 mmol). The RM is stirred at RT for 1 hour. The reaction mixture is partitioned between EtOAc and water. The organic phase is washed successively with water, saturated sodium bicarbarbonate and saturated brine, dried over MgSO4, filtered and the solvent removed in vacuo. Purification by chromatography on a pre-packed silica gel column using 0-100% EtOAc in isohexane gradient elution gave the desired product as a colourless solid.

reactant | cis-(4-Amino-cyclohexyl)-methanol | 5.80 mmol, 0.75 g | N[C@H]1CC[C@H](CC1)CO | C7H15NO
reactant | water | 1.8 mL | O | H2O
reactant | triethylamine | 14.51 mmol, 2.023 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-(trifluoromethyl)benzoyl chloride | 5.80 mmol, 1.411 g | ClC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3Cl2F3O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Cis-2-chloro-N-(−4-(hydroxymethyl)cyclohexyl)-5-(trifluoromethyl)-benzamide | ClC1=C(C(=O)N[C@@H]2CC[C@@H](CC2)CO)C=C(C=C1)C(F)(F)F | C15H17ClF3NO2
